US05254682
Sodium 5-Hydroxypentanoate 69
A suspension of 800 mg (8.0 mmol) of δ-valerolactone in 8 mL (8.0 mmol, 1.0 equiv) of 1N aqueous sodium hydroxide was heated at 65° C. overnight. The clear solution was cooled and concentrated. Toluene was added and the resultant slurry was concentrated to give a white solid: IR (nujol mull) 1550 cm-1.

reactant | δ-valerolactone | 8.0 mmol, 800 mg | C1(CCCCO1)=O | C5H8O2
reactant | sodium hydroxide | 8.0 mmol, 1N, 8 mL, 1.0 equiv | [OH-].[Na+]
product | Sodium 5-Hydroxypentanoate | OCCCCC(=O)[O-].[Na+] | InChI=1S/C5H10O3.Na/c6-4-2-1-3-5(7)8;/h6H,1-4H2,(H,7,8);/q;+1/p-1
